US04925849
A mixture of methyl 3-(2-phenylpyrazolo[1,5-a]pyridin-3-yl)acrylate (trans isomer) (4.05 g) in 1N sodium hydroxide solution (58.3 ml) and methanol (80 ml) was refluxed for 1 hour and evaporated in vacuo. The residue was dissolved in water and washed with chloroform. The aqueous layer was acidified with IN hydrochloric acid. The resulting precipitates were filtered and recrystallized from isopropyl alcohol to give crystals of 3-(2-phenylpyrazolo[1,5-a]pyridin-3-yl)acrylic acid (2.65 g).

reactant | methyl 3-(2-phenylpyrazolo[1,5-a]pyridin-3-yl)acrylate | 4.05 g | C1(=CC=CC=C1)C1=NN2C(C=CC=C2)=C1C=CC(=O)OC | C17H14N2O2
solvent | sodium hydroxide | 1N, 58.3 ml | [OH-].[Na+]
solvent | methanol | 80 ml | CO | CH4O
product | 3-(2-phenylpyrazolo[1,5-a]pyridin-3-yl)acrylic acid | 2.65 g | C1(=CC=CC=C1)C1=NN2C(C=CC=C2)=C1C=CC(=O)O | C16H12N2O2
